US05948911
Following the procedure of Example 1, the reaction of 3,4-methylenedioxyphenethylamine with 2,4-dichloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-trifluoromethyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
reactant | 2,4-dichloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)Cl | C7HCl2F3N2S
product | 2-chloro-6-trifluoromethyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCCC2=CC1=C(C=C2)OCO1 | C16H11ClF3N3O2S
